US05929117
3,4,3',5'-Tetramethoxybenzophenone was prepared analogously to 4-(3,4-dimethoxybenzoyl)pyridine using butyl lithium (9 mL, 22 mmol, 2.5M), 4-bromoveratrole (2.9 mL, 20 mmol) and 3,5-dimethoxybenzonitrile (3.75 g, 23 mmol). The crude product was purified by flash column chromatography (silica gel, methylene chloride) to afford 1.54 g (26%) of the product: mp 107-110° C.; 1H NMR (CDCl3) δ 7.53-7.39 (m, 2H), 6.95-6.84 (m, 3H), 6.70-6.60 (m, 1H), 3.96 (s, 3H), 3.95 (s, 3H), 3.83 (s, 6H); 13C NMR (CDCl3) δ 195.0, 160.4, 153.0, 148.9, 140.1, 130.0, 125.4, 112.0, 109.7, 107.5, 104.1, 56.0, 55.5; Anal. Calcd for C17H18O5. Theoretical: C, 67.54; H, 6.00. Found: C, 67.38; H, 5.96.

reactant | 4-(3,4-dimethoxybenzoyl)pyridine | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1OC | C14H13NO3
reactant | butyl lithium | 22 mmol, 2.5M, 9 mL | C(CCC)[Li]
reactant | 4-bromoveratrole | 20 mmol, 2.9 mL | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | 3,5-dimethoxybenzonitrile | 23 mmol, 3.75 g | COC=1C=C(C#N)C=C(C1)OC | C9H9NO2
product | 3,4,3',5'-Tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=CC(=C2)OC)OC)C=CC1OC | C17H18O5
